US04314065
(a) 4-[N-Methyl-N-(5-chloro-2-benzoxazolyl)amino]phenol
A solution of the sulfate salt of 4-(N-methylamino)phenol (0.008 mol, 2.76 g) in methyl ethyl ketone (25 ml) containing pure potassium carbonate (0.008 mol, 1.1 g) was warmed to reflux and a solution of 2,5-dichlorobenzoxazole (0.016 mol, 3.0 g) in methyl ethyl ketone (25 ml) was added dropwise over 2 hours. The resulting mixture was heated at reflux for a further hour, stood overnight, then stirred at room temperature for a further 8 hours. The solvent was then evaporated leaving a white solid. This was treated with a mixture of water (25 ml) and saturated aqueous sodium carbonate solution (25 ml). The solid was collected, washed with water, dried by suction and recrystallised three times from boiling toluene. Yield 1.4 g, mp 216°-217° C.; ir and pmr spectra and analysis consistent with assigned structure.

reactant | 4-(N-methylamino)phenol | 0.008 mol, 2.76 g | CNC1=CC=C(C=C1)O | C7H9NO
reactant | potassium carbonate | 0.008 mol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dichlorobenzoxazole | 0.016 mol, 3.0 g | ClC=1OC2=C(N1)C=C(C=C2)Cl | C7H3Cl2NO
reactant | sodium carbonate | 25 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methyl ethyl ketone | 25 ml | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 25 ml | C(C)C(=O)C | C4H8O
solvent | water | 25 ml | O | H2O
product | 4-[N-Methyl-N-(5-chloro-2-benzoxazolyl)amino]phenol | CN(C=1OC2=C(N1)C=C(C=C2)Cl)C2=CC=C(C=C2)O | C14H11ClN2O2
